US03975535
7-Bromoisocoumarin-3-carboxylic acid, mp. (EtOH-H2O) 320°-4°, (Found: C, 44.72; H, 1.86; Br. 29.41. C10H5BrO4 requires C, 44.64; H, 1.87; Br. 29.70), was prepared from 4-bromo-2-carboxybenzaldehyde by an analogous procedure to that described in Example 1.

reactant | 4-bromo-2-carboxybenzaldehyde | BrC1=CC(=C(C=O)C=C1)C(=O)O | C8H5BrO3
solvent | EtOH-H2O | C(C)O.O
product | 7-Bromoisocoumarin-3-carboxylic acid | BrC1=CC=C2C=C(OC(=O)C2=C1)C(=O)O | C10H5BrO4
